.subckt LTC6268-10 1 2 3 4 5 6
A1 2 REF 0 0 0 0 0 0 OTA g=0 in=1p*uplim(freq/14.3Meg,12,.5)
B1 0 N004 I=10u*dnlim(uplim(V(1),V(4)-.4,.1), V(5)-.2, .1)+1n*V(1)-7.501009n
B2 N004 0 I=10u*dnlim(uplim(V(2),V(4)-.39,.1), V(5)-.21, .1)+1n*V(2)
C10 N004 0 .1f Rpar=100K noiseless
M1 3 N010 5 5 NI temp=27
C2 4 3 10f
M2 3 N005 4 4 PI temp=27
C3 4 N005 10f Rser=5Meg noiseless
C11 3 5 10f
C12 N010 5 10f Rser=5Meg noiseless
D6 N010 5 DLIMN
A4 0 N004 0 0 0 0 N006 0 OTA g=1m linear en=4n*dnlim((50k/freq)**.31,1,.1)*dnlim((900k/freq)**.15,1,.1)*dnlim((freq/80Meg)**.22,1,.1) Vhigh=1e308 Vlow=-1e308
C16 N008 3 80f
G1 5 N010 N008 REF 100n
C7 4 1 225f
C17 0 N006 120f Rpar=1k noiseless
G4 0 N007 N006 0 1m
D14 4 N005 DLIMP
C4 2 1 100f
A6 N007 0 N009 REF REF REF N008 REF OTA g=2.5m asym isource=85.7u isink=-127.4u Rout=40k Vlow=-1e308 Vhigh=1e308
D9 4 6 DSHUT
A5 REF N008 N013 REF REF REF N005 REF OTA g=100n ref=-150m linear Vlow=-1e308 Vhigh=1e308
C14 4 5 20p Rpar=12.8k noiseless
S4 4 5 N013 REF SWP
C13 4 5 10p
A3 6 5 REF REF REF REF N013 REF SCHMITT vt=1.2 vh=.2 trise=900n tfall=800n
G2 0 REF 4 0 50m
G3 0 REF 5 0 50m
C19 REF 0 100p Rpar=10 noiseless
GESD1 2 4 2 4 1 vto=600m dir=1
GESD2 5 2 5 2 1 vto=600m dir=1
GESD3 1 4 1 4 1 vto=600m dir=1
GESD4 5 1 5 1 1 vto=600m dir=1
D1 3 4 DESD
D2 5 3 DESD
C1 4 2 225f
C5 1 5 225f
C6 2 5 225f
C8 0 N007 120f Rpar=1k noiseless
A2 1 REF 0 0 0 0 0 0 OTA g=0 in=1p*uplim(freq/14.3Meg,12,.5)
A7 N013 REF REF REF REF REF N009 REF BUF trise=100n
.model NI VDMOS(Vto=300m kp=100m lambda=.01)
.model PI VDMOS(Vto=-300m kp=100m lambda=.01 pchan is=0)
.model DSHUT D(Ron=1k Roff=1g Vfwd=.6 epsilon=100m ilimit=2u noiseless)
.model DIN D(Ron=300 Roff=100g Vfwd=.8 Vrev=.8 epsilon=100m revepsilon=100m noiseless)
.model DLIMP D(Ron=100k Roff=100Meg Vfwd=1.4 Vrev=340m epsilon=200m revepsilon=100m noiseless)
.model DLIMN D(Ron=1Meg Roff=100Meg Vfwd=800m Vrev=340m epsilon=200m revepsilon=100m  noiseless)
.model SWP SW(Roff=1G Ron=500 vt=.5 vh=-.1 ilimit=5.6m noiseless)
.model DESD D(Ron=100 Roff=100T Vfwd=1 epsilon=50m noiseless)
.ends LTC6268-10
*
